US04340756
Preparation of 1,5-Di-(4-chlorophenyl)-3-pentanone
3-(4-Chlorophenyl)propionic acid (0.20 mole) and iron (hydrogen reduced, 0.11 mole) are heated for 1.5 hours at 195° C. under a nitrogen atmosphere. After that time, the temperature is increased to 290° C. and maintained at that temperature for 3 hours. The cooled reaction mass is extracted well with ether, filtered through Celite, and the ethereal extracts concentrated under vacuum. The residue is stripped under vacuum to leave the product.

reactant | 3-(4-Chlorophenyl)propionic acid | 0.20 mole | ClC1=CC=C(C=C1)CCC(=O)O | C9H9ClO2
catalyst | iron | 0.11 mole | [Fe] | Fe
product | 1,5-Di-(4-chlorophenyl)-3-pentanone | ClC1=CC=C(C=C1)CCC(CCC1=CC=C(C=C1)Cl)=O | C17H16Cl2O
